US05780482
In a similar manner to Example B1, ethyl 7-ethoxy-4-hydroxy-1,8-naphthyridine-3-carboxylate (8.8 g) and phosphorus oxychloride (50 ml) were heated at 80° C. for 25 minutes to give ethyl 4-chloro-7-ethoxy-1,8-naphthyridine-3-carboxylate, m.p. 72°-75° C.

reactant | ethyl 7-ethoxy-4-hydroxy-1,8-naphthyridine-3-carboxylate | 8.8 g | C(C)OC1=CC=C2C(=C(C=NC2=N1)C(=O)OCC)O | C13H14N2O4
reactant | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-7-ethoxy-1,8-naphthyridine-3-carboxylate | ClC1=C(C=NC2=NC(=CC=C12)OCC)C(=O)OCC | C13H13ClN2O3
